US04348396
Preparation of 5-isopropoxy-anthranilic acid
74.0 G. of 5-isopropoxy-2-nitrobenzoic acid, isopropyl ester was dissolved in 650 ml. of ethanol and 145 ml. of 4 N sodium hydroxide solution. This solution was allowed to stir at room temperature for 16 hours. The reaction mixture was diluted with 2.0 l. of water and washed three times with 1 l. of dichloromethane. The aqueous layer was then acidified to pH<2 with concentrated hydrochloric acid and extracted three times with 1.0 l. of ether. The combined ether extracts were washed with 1.0 l. of saturated brine, dried over anhydrous sodium sulfate, filtered through Celite and evaporated to an orange oil (65.9 g.) which solidified on cooling, mp 129°-131°. The above solid was dissolved in 1.0 l. of ethyl acetate and hydrogenated, using 3.1 g. of 10% palladium on carbon as catalyst. When hydrogen uptake had ceased, the catalyst was removed by filtration and the filtrate was evaporated to a yellow solid, 49.5 g. (mp 120°-122° ).

reactant | 5-isopropoxy-2-nitrobenzoic acid, isopropyl ester | C(C)(C)OC=1C=CC(=C(C(=O)OC(C)C)C1)[N+](=O)[O-] | C13H17NO5
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-isopropoxy-anthranilic acid | C(C)(C)OC1=CC=C(C(C(=O)O)=C1)N | C10H13NO3
